US07674789B2
230a) 3-[2-[(3-chloropropyl)amino]-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide
To 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (206 mg, 0.4 mmol) in DMF (4 mL) was added (3-chloropropyl)amine hydrochloride (78 mg, 0.6 mmol) and triethylamine (112 uL, 0.8 mmol). The mixture was heated with microwave at 60° C. for 2 hrs. The mixture was separated by flash chromatography to afford the title compound (100 mg, 47%).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.4 mmol, 206 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C24H23F2N5O4S
reactant | (3-chloropropyl)amine hydrochloride | 0.6 mmol, 78 mg | Cl.ClCCCN
reactant | triethylamine | 0.8 mmol, 112 uL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-[2-[(3-chloropropyl)amino]-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 100 mg, 47% | ClCCCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NCCC)C=CC1C | C26H27ClF2N6O2
